US07317124B2
d) 1-Bromo-3-chloro-2-methoxy-5-pentafluorosulfanylbenzene
4.20 g of 2-bromo-6-chloro-4-pentafluorosulfanylphenol were stirred together with 3.48 g of K2CO3 and 2.68 g of CH3I in 50 ml of anhydrous DMF at RT for 24 hours. The solvent was then removed under reduced pressure and subsequently taken up with 100 ml each of water and EA. The phases were left to separate and extraction was then effected twice more with 100 ml each time of EA. Drying was effected over Na2SO4 and the solvent was removed under reduced pressure. Chromatography on silica gel using 1:1 DIP/HEP afforded 3.44 g of a colorless viscous liquid.

reactant | 2-bromo-6-chloro-4-pentafluorosulfanylphenol | 4.20 g | BrC1=C(C(=CC(=C1)S(F)(F)(F)(F)F)Cl)O | C6H3BrClF5OS
reactant | K2CO3 | 3.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 2.68 g | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-3-chloro-2-methoxy-5-pentafluorosulfanylbenzene | 3.44 g | BrC1=C(C(=CC(=C1)S(F)(F)(F)(F)F)Cl)OC | C7H5BrClF5OS
